Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
throat tightness, jaw pain, shoulder pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with  past medical history
notable for large mediastinal mass along with left
supraclavicular lymphadenopathy, and a new diagnosis of 
Hodgkin's
lymphoma who presents to the ED with throat tightness, 
discomfort
with swallowing, shoulder pain, lightheadedness and dizziness.

She patient reports that day prior to admission, she developed
throat tightness, jaw pain, with tightness in her throat. She
also reported decreased p.o. intake due to nausea. She stated 
she
felt pre-syncopal upon standing and symptoms kept worsening and
as such was asked to go to the ED. 

In the ED
- Initial vitals: 97.8 87 118/57 14 100% on RA
- Exam notable for subjective complaint of ___ throat pain
- Labs notable for:
+ CBC: WBC 8.5 Hgb 12.7 Plt 139
+ Chem 10: Na 137 K 4.6 Creat 06
+ Lactate 1.4
- Imaging: CT chest and neck showed: No change in
mass/lymphadenopathy with tracheal deviation. 
- Patient was given 4mg IV morphine and IV Zofran
- Consults: Heme/onc was consulted who recommended CT neck and
chest as below and admission for closer monitoring
- Transfer vitals: 97.7 74 130/75 16 100% on RA

On arrival to the floor she reports tingling around her neck on
swallowing but no overt dysphagia. She denies fevers or chills.
She denies difficulty breathing. She also denies dizziness.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
+ ONCOLOGY HISTORY:
- Presented to urgent care on ___ with 2 weeks history of
painless neck mass and left shoulder pain. US neck showed
enlarged extensive level 2 left cervical lymphadenopathy, left
supraclavicular mass measuring 3.2 cm x 1.7 cm and large
mediastinal mass displacing trachea and esophagus to the right.
The supraclavicular lymph node was biopsied on ___. Her
shoulder pain resolved on the day of biopsy. Biopsy results
consistent with Hodgkin's lymphoma.
+ OTHER PAST MEDICAL HISTORY
- None

 
Social History:
___
Family History:
- Paternal grandmother died of gall bladder cancer. Diagnosed at
age ___
- Paternal grandfather has tongue cancer diagnosed at age ___.

 
Physical Exam:
ON ADMISSION
=============
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Neck: Presence of supraclavicular mass on palpation
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted, port in place
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

ON DISCHARGE
=============
VITALS:  98.3 124/76 89 16 100 RA 
GENERAL: Pleasant, well-appearing, anxious young lady in no 
apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without mucositis, erythema or exudate
Neck: Presence of left supraclavicular firm adenopathy
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted, port in place
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout

 
Pertinent Results:
LABS

___ 01:15PM BLOOD WBC-8.5 RBC-5.16 Hgb-12.7 Hct-40.9 
MCV-79* MCH-24.6* MCHC-31.1* RDW-13.2 RDWSD-37.9 Plt ___
___ 05:30AM BLOOD WBC-7.2 RBC-4.80 Hgb-12.3 Hct-37.5 
MCV-78* MCH-25.6* MCHC-32.8 RDW-13.1 RDWSD-37.3 Plt ___
___ 01:15PM BLOOD Neuts-78.9* Lymphs-14.7* Monos-3.1* 
Eos-2.1 Baso-0.7 Im ___ AbsNeut-6.67* AbsLymp-1.24 
AbsMono-0.26 AbsEos-0.18 AbsBaso-0.06
___ 01:15PM BLOOD Glucose-84 UreaN-18 Creat-0.6 Na-137 
K-4.6 Cl-100 HCO3-27 AnGap-10
___ 05:30AM BLOOD Glucose-91 UreaN-10 Creat-0.5 Na-138 
K-4.5 Cl-102 HCO3-27 AnGap-9
___ 01:15PM BLOOD Calcium-9.5 Phos-4.7* Mg-1.9
___ 05:30AM BLOOD Calcium-9.3 Phos-4.1 Mg-1.8
___ 01:44PM BLOOD Lactate-1.___
1. No significant change in left supraclavicular 
lymphadenopathy, compatible with known Hodgkin's lymphoma.  No 
new lymphadenopathy in the neck. 
2. Please refer to separate report of CT chest performed on the 
same day for description of the thoracic findings including a 
mediastinal nodal 
conglomerate extending into the left supraclavicular region. 

CT CHEST ___
-No significant change in left supraclavicular and mediastinal 
lymphadenopathy compatible with known Hodgkin's lymphoma.  No 
new lymphadenopathy. 
-Associated mediastinal mass effect including displacement of 
the trachea to the right without narrowing is not significantly 
changed. 
-The esophagus is displaced towards the right by the mediastinal 
mass, however esophageal narrowing cannot be determined on this 
study, and could be further assessed with EGD or esophagram if 
desired. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old otherwise healthy young lady with 
Stage IIA Hodgkin's lymphoma admitted on C1D4 of ABVD with 
orthostasis, dysphagia, left shoulder/neck pain which resolved 
with conservative management and IV hydration overnight. CT 
Neck/Chest showed stable disease burden in neck and chest, 
without acute changes. She tolerated a regular diet in the 
morning. She feels well enough to go home and understands alarm 
signs that would prompt her to call her hematologist or come to 
the ED.

#Orthostasis/volume depletion: Secondary to decreased PO intake 
in setting of mild nausea, dysphagia in setting of chemotherapy 
and disease. Received IVF overnight with resolution of symptoms 
and no clinical signs of volume depletion upon discharge. 

#Jaw/Shoulder pain: Likely secondary to disease which is stable. 
Pain improved with 1 dose of IV morphine and prn acetaminophen. 
Denies pain upon discharge. 

#Hodgkin's lymphoma: Stage IIA, early in her first cycle of 
ABVD. Patient was reassured with stability of disease on scans 
which was explained to her and her mother. Explained that timing 
of response on imaging can be variable but it is early to be 
observed, deferred exact timing of follow-up scans to primary 
oncologist. 

TRANSITIONAL ISSUES:
-Scheduled for follow-up with Dr. ___ on ___
-No changes to medications

45 minutes were spent coordinating and planning the discharge of 
this patient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN  nausea 
2. LORazepam 0.5 mg PO Q8H:PRN nausea 
3. Promethazine 12.5 mg PO Q6H:PRN Nausea 

 
Discharge Medications:
1.  LORazepam 0.5 mg PO Q8H:PRN nausea  
2.  Ondansetron 4 mg PO Q8H:PRN  nausea  
3.  Promethazine 12.5 mg PO Q6H:PRN Nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY 
Volume depletion 
Orthostasis 
Non-specific pain 
 
SECONDARY 
Hodgkin's  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted for discomfort in your jaw and shoulder, 
difficulty swallowing and dehydration. These symptoms may be due 
to your chemotherapy. You received some intravenous fluids and 
your discomfort subsided. You were able to tolerate liquids and 
solids well. 

Please make sure to keep hydrated with abundant fluids 
(gatorade, powerade, water). 

It was a pleasure to take care of you.

Your ___ Team
 
Followup Instructions:
___